US07700609B2
(5,6-Dihydro-benzo[h]quinazolin-2-yl)-phenyl-amine (58)
A solution of 2-dimethylaminomethylene-3,4-dihydro-2H-naphthalen-1-one 100 mg in 5 ml DMF and 3 eq. of N-phenyl-guanidine was stirred at 110° C. for overnight, the product was purified by directly injecting the DMF reaction solution into prep HPLC.

reactant | 2-dimethylaminomethylene-3,4-dihydro-2H-naphthalen-1-one | 100 mg | CN(C)C=C1C(C2=CC=CC=C2CC1)=O | C13H15NO
reactant | N-phenyl-guanidine | 3 eq. | C1(=CC=CC=C1)NC(=N)N | C7H9N3
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (5,6-Dihydro-benzo[h]quinazolin-2-yl)-phenyl-amine | N1=C(N=CC=2CCC3=C(C12)C=CC=C3)NC3=CC=CC=C3 | C18H15N3
